* source TL331
.EXTERNAL INPUT OUT
.EXTERNAL INPUT Vcc
.EXTERNAL INPUT IN-
.EXTERNAL INPUT GND
.EXTERNAL INPUT IN+
V_V2         IN+ 0  
+SIN 5 500m 100k 0 0 0
R_R3         VCC OUT  10k TC=0,0 
V_VINN2         VCC 0 36
V_VINN         IN- 0 5
R_R2         0 GND  1m TC=0,0 
X_U1         IN+ IN- VCC GND OUT LM2903B
